US07700641B2
E. Synthesis of 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one
To a solution of 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one (7.50 g, 17.9 mmol) in dry dichloromethane (150 mL) was added triethylamine (10.9 g, 108 mmol) and chlorotrimethylsilane (7.80 g, 71.8 mmol) at 0° C. The reaction mixture was stirred at 0° C. for 2 h and diluted with dichloromethane (100 mL). The mixture was washed with water (3×50.0 mL), dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was dissolved in THF (150 mL) followed by the additions of formaldehyde solution (4.90 mL, 179 mmol, 37 wt % in water) and ytterbium (III) trifluoromethanesulfonate (1.11 g, 1.79 mmol). The resulting mixture was stirred at ambient temperature for 36 h. After the solvent was removed under reduced pressure, the residue was diluted with dichloromethane (200 mL), washed with saturated sodium bicarbonate (50.0 mL), saturated ammonium chloride (50.0 mL) and water (100 mL). The organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness to yield the title compound (6.32 g, 79%) as a fluffy solid: 1H NMR (300 MHz, CDCl3) δ 8.28 (s, 1H), 7.10 (t, 1H), 7.00 (dd, 1H), 6.89 (dd, 1H), 6.83 (s, 1H), 6.27 (s, 1H), 6.85 (dd, 2H), 4.52-4.41 (m, 2H), 3.90 (dd, 1H), 3.70-3.65 (m, 2H), 1.68-1.57 (m, 2H), 1.36-1.29 (m, 4H), 0.83 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 178.1, 150.3, 147.2, 147.2, 140.5, 129.6, 129.2, 125.6, 118.4, 114.8, 109.2, 106.9, 101.0, 98.2, 62.6, 57.6, 39.9, 28.9, 26.7, 22.2, 13.5.

reactant | 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | 17.9 mmol, 7.50 g | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)C1=CC2=C(OCO2)C=C1O | C20H20BrNO4
reactant | triethylamine | 108 mmol, 10.9 g | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 71.8 mmol, 7.80 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | formaldehyde | 179 mmol, 4.90 mL | C=O | CH2O
reactant | ytterbium (III) trifluoromethanesulfonate | 1.79 mmol, 1.11 g | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | 6.32 g, 79% | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)(CO)C1=CC2=C(OCO2)C=C1O | C21H22BrNO5
